US07687502B2
6-[2-Fluoro-6-(methylsulfonyl)phenoxy]-N-pyridazin-3-ylquinazolin-4-yl-amine
The compound of Example 143 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 1,2-difluoro-3-(methylsulfonyl)benzene, 3-amino-pyridazine and 4-chloro-6-hydroxy-quinazoline.

reactant | 1,2-difluoro-3-(methylsulfonyl)benzene | FC1=C(C(=CC=C1)S(=O)(=O)C)F | C7H6F2O2S
reactant | 3-amino-pyridazine | NC=1N=NC=CC1 | C4H5N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | 6-[2-Fluoro-6-(methylsulfonyl)phenoxy]-N-pyridazin-3-ylquinazolin-4-yl-amine | FC1=C(OC=2C=C3C(=NC=NC3=CC2)NC=2N=NC=CC2)C(=CC=C1)S(=O)(=O)C | C19H14FN5O3S
